US04032676
N,N'-di-(2,3,4,5,6-pentahydroxy-hexyl)-L-(+)-lysine
The starting materials were D-glucose and L-(+)-lysine in a molar ratio 2:1. The reductive amination took place using Raney nickel or palladium/activated carbon (10%) as a catalyst and heating for 2 hours to 50° C. and 4 hours to 70° C., a yellowish resin-like product being obtained.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | L-(+)-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
catalyst | Raney nickel | [Ni] | Ni
catalyst | palladium | [Pd] | Pd
product | N,N'-di-(2,3,4,5,6-pentahydroxy-hexyl)-L-(+)-lysine | OC(CN[C@@H](CCCCNCC(C(C(C(CO)O)O)O)O)C(=O)O)C(C(C(CO)O)O)O | C18H38N2O12
